US08685970B2
To a mixture of 4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)aniline (167 mg, 0.750 mmol), 2-(3-(trifluoromethyl)phenyl)quinoline-8-carboxylic acid (159 mg, 0.500 mmol), HATU (285 mg, 0.75 mmol) in NMP (5 mL) was added DIPEA (173 μL, 1.0 mmol). The reaction was stirred for 72 hours at room temperature, water (5 mL) was added and the resulting precipitates were collected by filtration and recrystallized from ethanol. The yellow solid was treated with a mixture of 1:3 6N HCl/Dioxane (8 mL) overnight. The mixture was concentrated to dryness, triturated with water, collected by filtration, washed with water and dried to obtain N-(4-(2,3-dihydroxypropoxy)phenyl)-2-(3-(trifluoromethyl)phenyl)quinoline-8-carboxamide (191 mg, 79% yield). MS (ESI) calcd for C26H21F3N2O4 (m/z): 482.15. found: 483 [M+1].

reactant | 4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)aniline | 0.750 mmol, 167 mg | CC1(OCC(O1)COC1=CC=C(N)C=C1)C | C12H17NO3
reactant | 2-(3-(trifluoromethyl)phenyl)quinoline-8-carboxylic acid | 0.500 mmol, 159 mg | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)O)(F)F | C17H10F3NO2
reactant | HATU | 0.75 mmol, 285 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.0 mmol, 173 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | water | 5 mL | O | H2O
product | N-(4-(2,3-dihydroxypropoxy)phenyl)-2-(3-(trifluoromethyl)phenyl)quinoline-8-carboxamide | 191 mg, 79% yield | OC(COC1=CC=C(C=C1)NC(=O)C=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)C(F)(F)F)CO | C26H21F3N2O4
